US09029536B2
A) 3,5-Difluoro-N-methoxy-N-methylpyridine-2-carboxamide
To a suspension of 3,5-difluoropicolinic acid (3.5 g) in THF (70 ml) was added CDI (3.92 g) at room temperature. The mixture was stirred at room temperature for 30 min and at 50° C. for 1 h. After cooling to room temperature, N,O-dimethylhydroxylamine hydrochloride (3.22 g) and DIPEA (5.76 mL) were added. The mixture was stirred at room temperature for 12 h, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/AcOEt) to give the title compound (2.5 g).

reactant | 3,5-difluoropicolinic acid | 3.5 g | FC=1C(=NC=C(C1)F)C(=O)O | C6H3F2NO2
reactant | CDI | 3.92 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 3.22 g | Cl.CNOC
reactant | DIPEA | 5.76 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 3,5-Difluoro-N-methoxy-N-methylpyridine-2-carboxamide | 2.5 g | FC=1C(=NC=C(C1)F)C(=O)N(C)OC | C8H8F2N2O2
